US06051570
2-[[3-Methyl-4-(2,2,2-trifluoroethoxy)pyridin-2-yl]methylthio]-6-fluoro-5-(4-methylpiperazin-1-yl)-1H-benzimidazole:
The title compound (1.48 g, 64%) was prepared by the general procedure using 6-fluoro-5-(4-methylpiperazin-1-yl)-2-mercapto-1H-benzimidazole (1.33 g, 5.0 mmol) (obtained in preparation 4), 3-methyl-4-(2,2,2-trifluoroethoxy)-2-chloromethylpyridine hydrochloride (1.5 g, 5.5 mmol), sodium hydroxide (0.4 g, 10.0 mmol) and ethanol (25 mL). mp 109-110° C.; IR (KBr) 3397, 1584, 1258 cm-1 ; 1H NMR (DMSO-d6) δ 2.38 (s, 3H, CH3), 2.80 (s, 3H, CH3), 3.12 (m, 4H, N(CH2)2), 3.40 (m, 4H, N(CH2)2), 4.48 (q, J=7.9 Hz, 2H, OCH2CF3), 4.60 (s, 2H, SCH2), 6.80 (d, J=5.8 Hz, 1H), 7.14 (d, J=7.1 Hz, 1H), 7.24 (d, J=11.7 Hz, 1H), 8.40 (d, J=5.5 Hz, 1H); Mass (m/z) 469 (M+).

reactant | 6-fluoro-5-(4-methylpiperazin-1-yl)-2-mercapto-1H-benzimidazole | 5.0 mmol, 1.33 g | FC=1C(=CC2=C(NC(=N2)S)C1)N1CCN(CC1)C | C12H15FN4S
reactant | 3-methyl-4-(2,2,2-trifluoroethoxy)-2-chloromethylpyridine hydrochloride | 5.5 mmol, 1.5 g | Cl.CC=1C(=NC=CC1OCC(F)(F)F)CCl
reactant | sodium hydroxide | 10.0 mmol, 0.4 g | [OH-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-[[3-Methyl-4-(2,2,2-trifluoroethoxy)pyridin-2-yl]methylthio]-6-fluoro-5-(4-methylpiperazin-1-yl)-1H-benzimidazole | 1.48 g, 64% | CC=1C(=NC=CC1OCC(F)(F)F)CSC1=NC2=C(N1)C=C(C(=C2)N2CCN(CC2)C)F | C21H23F4N5OS
